US04297516
1-Bromo-2-ethoxyhexane
To a stirred solution of 1.68 moles of n-butylmagnesium bromide, as a 1.7 M solution in ether, is added dropwise a solution of 300 g. of 1,2-dibromo-2-ethoxyethane in 750 ml. of ether during a period of 2 hours at -15° C. The resultingmixture is stirred for one hour while warming to 20° C., then cooled to 0° C., and treated while stirring with 500 ml. of water, followed by 100 ml. of 4 N hydrochloric acid. The organic layer is washed with brine, dried over magnesium sulfate and concentrated. The residue is distilled to provide a colorless liquid, b.p. 83°-84° C., 18 mm.

reactant | n-butylmagnesium bromide | 1.68 moles | C(CCC)[Mg]Br
reactant | 1,2-dibromo-2-ethoxyethane | BrCC(OCC)Br | C4H8Br2O
reactant | water | O | H2O
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1-Bromo-2-ethoxyhexane | BrCC(CCCC)OCC | C8H17BrO
